US05693668
3-Trimethylsilylbenzylalcohol
To a solution of 3-bromobenzylalcohol (9.35 g, 50 mmol) in diethyl ether (50 ml) at 0° C. was added dropwise 1.5M butyllithium (66.7 ml) and the mixture was stirred 30 min. Then trimethylsilylchloride (11.39 g, 105 mmol) in diethyl ether (50 ml) was added dropwise and the mixture was stirred at room temperature 18 hours. The reaction mixture was treated with ice water (100 ml) and the organic layer extracted, washed with water, brine, dried over MgSO4 and concentrated. The crude product was dissolved in 90% aqueous methanol (100 ml) and refluxed 1 hour. The solvents were removed and 3-trimethylsilylbenzylalcohol was purified by distillation.

reactant | 3-bromobenzylalcohol | 50 mmol, 9.35 g | BrC=1C=C(CO)C=CC1 | C7H7BrO
reactant | butyllithium | 1.5M, 66.7 ml | C(CCC)[Li]
reactant | trimethylsilylchloride | 105 mmol, 11.39 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-Trimethylsilylbenzylalcohol | C[Si](C=1C=C(CO)C=CC1)(C)C | C10H16OSi
